US08912180B2
A mixture of 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole (350 mg), methyl[(3R)-1-(trans-4-aminocyclohexyl)-2-oxopyrrolidin-3-yl]carbamate hydrochloride (344 mg), potassium carbonate (178 mg), N-ethyl-N-isopropylpropan-2-amine (1.1 mL), and N,N-dimethylacetamide (1.75 mL) was stirred at 60° C. overnight. To the reaction solution were added water and ethyl acetate. The insoluble matter was collected by filtration, followed by extraction with ethyl acetate. The solvent was evaporated under reduced pressure, and then the residue and the insoluble matter were combined. Ethyl acetate was added thereto, and the mixture was suspended, stirred, and then collected by filtration. The resultant was washed with water and dried to obtain methyl{(3R)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}amino)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate (446 mg).

reactant | 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole | 350 mg | ClC1=CC(=NC(=N1)SC)N1C(=NC2=C1C=CC=C2)C(F)F | C13H9ClF2N4S
reactant | methyl[(3R)-1-(trans-4-aminocyclohexyl)-2-oxopyrrolidin-3-yl]carbamate hydrochloride | 344 mg | Cl.CN(C(O)=O)[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)N)=O
reactant | potassium carbonate | 178 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 1.75 mL | CN(C(C)=O)C | C4H9NO
product | methyl{(3R)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}amino)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate | 446 mg | COC(N[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)NC1=NC(=NC(=C1)N1C(=NC2=C1C=CC=C2)C(F)F)SC)=O)=O | C25H29F2N7O3S
